US08431563B2
A 25 ml, round-bottomed flask was charged with 1,1,1,3,3,3-hexafluoro-2-(4-(4-((3-methoxyphenyl)sulfonyl)-1-piperazinyl)phenyl)-2-propanol (80 mg, 0.16 mmol) and CH2Cl2 (5 mL). BBr3 (1M in CH2Cl2, 0.48 mL, 0.48 mmol) was added at room temperature. The reaction was stirred at room temperature for 1 h. The mixture was quenched with MeOH (20 mL), concentrated onto silica gel and purified via column chromatography (12 g silica gel, 0 to 10% MeOH in CH2Cl2) to give 3-((4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinyl)sulfonyl)phenol. 1H NMR (400 MHz, CD3OD) δ=7.57 (d, J=9.0 Hz, 2H), 7.44 (t, J=8.0 Hz, 1H), 7.25 (d, J=7.4 Hz, 1H), 7.18 (s, 1H), 7.10-7.06 (m, 1H), 7.04 (d, J=9.2 Hz, 2H), 3.37-3.33 (m, 4H), 3.21-3.07 (m, 4H). m/z (ESI, +ve ion) 485.1 (M+H)+. GK-GKRP IC50 (Binding)=0.949 μM; GK-GKRP EC50 (LC MS/MS-2)=0.74 μM.

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(4-((3-methoxyphenyl)sulfonyl)-1-piperazinyl)phenyl)-2-propanol | 0.16 mmol, 80 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)OC)(F)F | C20H20F6N2O4S
reactant | BBr3 | 0.48 mmol, 1M, 0.48 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-((4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinyl)sulfonyl)phenol | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)O)(F)F | C19H18F6N2O4S
